US04122179
Vincamine caprate
From 7.08 g (2.10-2 moles) of vincamine and 3.45 g (2.10-2 moles) of capric acid, there are obtained 10 g of an oily, semi-solid substance, insoluble in water and in the common organic solvents. The vincamine content is 65.3%.

reactant | vincamine | CC[C@@]12CCCN3[C@@H]1C4=C(C=5C=CC=CC5N4[C@](C2)(C(=O)OC)O)CC3 | C21H26N2O3
solvent | water | O | H2O
product | Vincamine caprate | CC[C@@]12CCCN3[C@@H]1C4=C(C=5C=CC=CC5N4[C@](C2)(C(=O)OC)O)CC3.[O-]C(=O)CCCCCCCCC | InChI=1S/C21H26N2O3.C10H20O2/c1-3-20-10-6-11-22-12-9-15-14-7-4-5-8-16(14)23(17(15)18(20)22)21(25,13-20)19(24)26-2;1-2-3-4-5-6-7-8-9-10(11)12/h4-5,7-8,18,25H,3,6,9-13H2,1-2H3;2-9H2,1H3,(H,11,12)/p-1/t18-,20+,21+;/m1./s1
